US07897762B2
A solution 3-(4-fluoro-3-nitrophenyl)-7-(methoxy(methyl)amino)-1-methyl-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one (2 g, 5.5 mmol) in methanol (30 mL) was stirred with 10% Pd/C (1.0 g, 0.94 mmol) under hydrogen (45 psi) at 45° C. for 24 h. The complete reaction mixture was filtered, and the filtrate was concentrated in vacuo. The residue was washed with ethyl ether and dried in vacuo to provide 3-(3-amino-4-fluorophenyl)-1-methyl-7-(methylamino)-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one (1.1 g, 66% yield). 1H NMR (400 MHz, DMSO-d6): δ 7.70 (s, 1 H), 6.94 (t, J=9.6 Hz, 1 H), 6.66 (d, J=6.8 Hz, 1 H), 6.40 (m, 2H), 5.92 (s, 1 H), 5.17 (s, 2 H), 4.50 (s, 2 H), 3.13 (s, 3 H), 2.73 (d, J=4.0 Hz, 3 H), MS (ESI) m/z: 302.1 (M+H+).

reactant | 3-(4-fluoro-3-nitrophenyl)-7-(methoxy(methyl)amino)-1-methyl-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one | 5.5 mmol, 2 g | FC1=C(C=C(C=C1)N1C(N(C2=C(C1)C=NC(=C2)N(C)OC)C)=O)[N+](=O)[O-] | C16H16FN5O4
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd/C | 0.94 mmol, 1.0 g | [Pd] | Pd
product | 3-(3-amino-4-fluorophenyl)-1-methyl-7-(methylamino)-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one | 1.1 g, 66% yield | NC=1C=C(C=CC1F)N1C(N(C2=C(C1)C=NC(=C2)NC)C)=O | C15H16FN5O
